US09255110B2
A mixture of 7-bromo-3-methoxy-naphthalen-2-ylamine (2.2 g, 8.76 mmol), acetic anhydride (1.4 g, 13.14 mmol) and pyridine (20 mL) was stirred at room temperature for 3 hours. Water (300 mL) was added and the solid precipitate was collected by filtration and copiously washed with water. The solid residue was dissolved in dichloromethane, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 2.569 g of N-(7-bromo-3-methoxy-naphthalen-2-yl)-acetamide as a light pink solid.

reactant | 7-bromo-3-methoxy-naphthalen-2-ylamine | 8.76 mmol, 2.2 g | BrC1=CC=C2C=C(C(=CC2=C1)N)OC | C11H10BrNO
reactant | acetic anhydride | 13.14 mmol, 1.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | 300 mL | O | H2O
product | N-(7-bromo-3-methoxy-naphthalen-2-yl)-acetamide | 2.569 g | BrC1=CC=C2C=C(C(=CC2=C1)NC(C)=O)OC | C13H12BrNO2
